US04581370
1-[2-[(2,6-Dimethylphenyl)sulfamoyl]ethyl]-3-heptylimidazolium bromide
Combine 3.46 g (0.019 mole) 1-bromoheptane and 5.16 g (0.018 mole) N-(2,6-dimethylphenyl)-2-[1H-imidazol-1-yl]ethane sulfonamide in 10 ml DMF and heat to 100° C. Follow progress of reaction by TLC on silica gel (acetonitrile:ammonium hydroxide, 9:1). After about 10 hours, allow reaction mixture to cool to room temperature. Pour the reaction mixture into 50 ml H2O and extract with 1×25 ml ether to give a white precipitate in the aqueous layer. Filter and recrystallize the precipitate from acetone to provide the title compound.

reactant | 1-bromoheptane | 0.019 mole, 3.46 g | BrCCCCCCC | C7H15Br
reactant | N-(2,6-dimethylphenyl)-2-[1H-imidazol-1-yl]ethane sulfonamide | 0.018 mole, 5.16 g | CC1=C(C(=CC=C1)C)NS(=O)(=O)CCN1C=NC=C1 | C13H17N3O2S
reactant | H2O | 50 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[2-[(2,6-Dimethylphenyl)sulfamoyl]ethyl]-3-heptylimidazolium bromide | [Br-].CC1=C(C(=CC=C1)C)NS(=O)(=O)CC[N+]1=CN(C=C1)CCCCCCC | InChI=1S/C20H32N3O2S.BrH/c1-4-5-6-7-8-12-22-13-14-23(17-22)15-16-26(24,25)21-20-18(2)10-9-11-19(20)3;/h9-11,13-14,17,21H,4-8,12,15-16H2,1-3H3;1H/q+1;/p-1
